US04938790
Preparation of 1,1-Bis(2-methoxyphenyl)ethene.
1,1-Bis(2-methoxyphenyl)ethanol (25.6 g) was combined with 250 ml of acetic anhydride and the mixture was heated at reflux for 4 hours. A drop of concentrated sulfuric acid was added and the heating continued for 10 min. The opaque brown mixture obtained was allowed to cool and was diluted with ether. The resulting solution was extracted twice with water, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a brownish-black solid. This was recrystallized from methanol to obtain 14.0 g of the title compound as tan crystals melting at 88-90° C. The proton NMR spectrum was consistent with the assigned structure.

reactant | 1,1-Bis(2-methoxyphenyl)ethanol | 25.6 g | COC1=C(C=CC=C1)C(C)(O)C1=C(C=CC=C1)OC | C16H18O3
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
product | 1,1-Bis(2-methoxyphenyl)ethene | 14.0 g | COC1=C(C=CC=C1)C(=C)C1=C(C=CC=C1)OC | C16H16O2
